US04948916
47.3 Grams (0.5 moles) of chloroacetic acid was dissolved in 55 g (0.55 moles) of an aqueous solution of 40% sodium hydroxide. To the solution, 36.5 g (0.5 moles) of acetone oxime was added, and then 55 g (0.55 moles) of an aqueous solution of 40% sodium hydroxide was added dropwise to the mixture while maintaining a temperature at not higher than 30° C. Reaction was subsequently performed with the solution being allowed to flow at a rate of 4 ml/min into a glass tube (10 mm in diameter and 100 mm in length) that was heated at 90°-100° C. The unreacted acetone oxime was removed from the reaction solution by two extractions with 100 ml of ether. The pH of the remaining aqueous solution was adjusted to 1 with concentrated HCl. The solution was subsequently saturated with sodium chloride. The resulting aqueous solution was subjected to two extractions with 100 ml of ether and the extract was dried with magnesium sulfate. Ether was distilled off under vacuum and the residue was distilled under vacuum to obtain isopropylidene aminooxyacetic acid (m.p. 76° C.) in an amount of 16.3 g (yield, 25 mol %).

reactant | chloroacetic acid | 0.5 moles | ClCC(=O)O | C2H3ClO2
reactant | acetone oxime | 0.5 moles, 36.5 g | CC(C)=NO | C3H7NO
solvent | sodium hydroxide | [OH-].[Na+]
product | isopropylidene aminooxyacetic acid | C(C)(C)=NOCC(=O)O | C5H9NO3
